US07423030B2
7.1 5-methoxy-2-(3-methoxybenzoyl)benzoic acid
This compound is obtained according to the procedure described in 1.1. by reacting 3-methoxybenzoyl chloride and 2-bromo-5-methoxybenzoic acid after halogen-lithium exchange. It is used in crude form in the following reaction.

reactant | 3-methoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
product | 5-methoxy-2-(3-methoxybenzoyl)benzoic acid | COC=1C=CC(=C(C(=O)O)C1)C(C1=CC(=CC=C1)OC)=O | C16H14O5
